US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (1.43 g, 3.73 mmol) with (2,5-dichlorophenyl)boronic acid (1.07 g, 5.59 mmol) generally according to the procedure described for Intermediate 184 provided 1.49 g (88%) of (±)[7-(2,5-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. Rf=0.43 (silica, ethyl acetate:hexanes 1:4.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 3.73 mmol, 1.43 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | (2,5-dichlorophenyl)boronic acid | 5.59 mmol, 1.07 g | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
product | (±)[7-(2,5-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 1.49 g, 88% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC(=C2)Cl)Cl | C22H18Cl2O4S
